US06277861B1
(±) 7-Amino-1,2-dimethyl-tetrahydroisoquinoline
(±) 7-Amino-2-methyl-3,4-dichloroisoquinolinium iodide (0.50 g, 1.7 mmol) was suspended in anhydrous tetrahydrofuran (50 ml) and cooled to −78° C. The cooled solution was treated with methyl magnesium chloride (2.14 ml of a 3M solution in THF, 6.96 mmol), added as a single portion. The reaction was allowed to reach room temperature over 18 h before being poured into water (50 ml). The organic solvent was removed in vacuo and the organic product extracted into dichloromethane. Drying over magnesium sulfate and evaporation in vacuo fuinished the title compound as a pale yellow oil (0.3 g, 98%). For ease of handling the product was converted into a monohydrochloride.

reactant | (±) 7-Amino-2-methyl-3,4-dichloroisoquinolinium iodide | 1.7 mmol, 0.50 g | [I-].NC1=CC=C2C(=C([N+](=CC2=C1)C)Cl)Cl
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (±) 7-Amino-1,2-dimethyl-tetrahydroisoquinoline | NC1=CCC2CCN(C(C2=C1)C)C | C11H18N2
